US09447073B2
Preparation of 4-((6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-yl)oxy)benzonitrile (C4)
To a magnetically stirred solution of trimethylsulfoxonium iodide (6.4 g, 29.42 mmol) in dry THF/DMSO (10:6) was added potassium tert-butoxide (3.302 g, 29.42 mmol) under a N2 atmosphere. The reaction mixture was stirred at room temperature for 1 h and then cooled to 0° C. 4-((6-(2-(2,4-Difluorophenyl)-1,1-difluoro-2oxoethyl)pyridin-3-yl)oxy)benzonitrile (8.737 g, 22.63 mmol) in THF (40 mL) was added slowly to maintain the temperature below 5° C. The reaction mixture was maintained at 0° C. for 30 min and saturated sodium bicarbonate was added to quench the reaction. Brine was added and the mixture was extracted with Et2O. The combined organic phases were diluted with hexanes and washed with brine and water, dried (Na2SO4) and concentrated to give the title compound as an amber oil (4 g, 44%): 1H NMR (300 MHz, CDCl3) δ 8.46 (d, J=2.7 Hz, 1H), 7.73-7.62 (m, 2H), 7.52 (dd, J=8.6, 0.6 Hz, 1H), 7.48-7.35 (m, 2H), 7.13-7.02 (m, 2H), 6.92-6.80 (m, 1H), 6.75 (ddd, J=10.0, 8.9, 2.5 Hz, 1H), 3.46 (d, J=5.1 Hz, 1H), 3.03-2.96 (m, 1H); ESIMS m/z 401 ([M+H]+).

reactant | trimethylsulfoxonium iodide | 29.42 mmol, 6.4 g | [I-].C[S+](=O)(C)C
reactant | potassium tert-butoxide | 29.42 mmol, 3.302 g | CC(C)([O-])C.[K+]
reactant | 4-((6-(2-(2,4-Difluorophenyl)-1,1-difluoro-2oxoethyl)pyridin-3-yl)oxy)benzonitrile | 22.63 mmol, 8.737 g | FC1=C(C=CC(=C1)F)C(C(F)(F)C1=CC=C(C=N1)OC1=CC=C(C#N)C=C1)=O | C20H10F4N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF DMSO | C1CCOC1.CS(=O)C
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 4-((6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-yl)oxy)benzonitrile | 4 g, 44% | FC1=C(C=CC(=C1)F)C1(OC1)C(C1=CC=C(C=N1)OC1=CC=C(C#N)C=C1)(F)F | C21H12F4N2O2
